US04342692
C. Trans-2-(3,4-dihydroxybenzyl)-5-[2-(4-hydroxyphenyl)ethyl]pyrrolidine hydrobromide
A solution of 1 g. (0.003 mole) of trans-2-(3,4-dimethoxybenzyl)-5-[2-(4-methoxyphenyl)ethyl]pyrrolidine hydrochloride in 35 ml. of methylene chloride was cooled to -65° C. and treated with 2.68 g. (0.012 mole) of boron tribromide dropwise. The reaction mixture was then stirred under N2 and slowly warmed from -65° to room temperature over the course of one hour and 25 minutes. The solution was then cooled again to -60° C. and 25 ml. of methanol was cautiously added. Solvent was removed in vacuo, more methanol was added and some insoluble material was filtered off. After removal of methanol in vacuo, the residue was treated with ethyl acetate. Upon standing at room temperature, 0.8 g. of product was obtained as an off-white solid, m.p. 202°-203° C.

reactant | trans-2-(3,4-dimethoxybenzyl)-5-[2-(4-methoxyphenyl)ethyl]pyrrolidine hydrochloride | 0.003 mole | Cl.COC=1C=C(C[C@@H]2N[C@H](CC2)CCC2=CC=C(C=C2)OC)C=CC1OC
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | boron tribromide | 0.012 mole | B(Br)(Br)Br | BBr3
solvent | methanol | CO | CH4O
product | Trans-2-(3,4-dihydroxybenzyl)-5-[2-(4-hydroxyphenyl)ethyl]pyrrolidine hydrobromide | Br.OC=1C=C(C[C@@H]2N[C@H](CC2)CCC2=CC=C(C=C2)O)C=CC1O | InChI=1S/C19H23NO3.BrH/c21-17-8-2-13(3-9-17)1-5-15-6-7-16(20-15)11-14-4-10-18(22)19(23)12-14;/h2-4,8-10,12,15-16,20-23H,1,5-7,11H2;1H/t15-,16+;/m0./s1
